US07932399B2
5,6-Dichloro-2-(2-trifluoromethyl-imidazolidin-2-yl)-1H-benzimidazole (#60)
1-(5,6-DiChloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (1.02 g; 3.61 mmol), ethylene diamine (0.74 mL; 11.04 mmol) and para-toluenesulphonic acid monohydrate (0.12 g; 0.603 mmol) were suspended in toluene (80 mL), then heated to reflux with a Dean-Stark trap for 3 hrs. After 3 hrs, ethylene diamine (0.74 mL; 11.04 mmol) was added to the reaction mixture and the reaction mixture was allowed to reflux with the Dean-Stark trap for 18 hrs. The reaction was cooled to room temperature and concentrated in vacuo to a crude brown residue. The crude brown residue was dissolved in ethyl acetate (60 mL), washed with water (3×50 mL) and brine (50 mL), then dried over Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated in vacuo to a crude brown oil, which was purified by column chromatography (SiO2, 50% ethyl acetate/hexanes) to yield the title compound as a light orange solid.

reactant | 1-(5,6-DiChloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 3.61 mmol, 1.02 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | ethylene diamine | 11.04 mmol, 0.74 mL | C(CN)N | C2H8N2
reactant | para-toluenesulphonic acid monohydrate | 0.603 mmol, 0.12 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethylene diamine | 11.04 mmol, 0.74 mL | C(CN)N | C2H8N2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 5,6-Dichloro-2-(2-trifluoromethyl-imidazolidin-2-yl)-1H-benzimidazole | ClC1=CC2=C(NC(=N2)C2(NCCN2)C(F)(F)F)C=C1Cl | C11H9Cl2F3N4
